US06441008B1
(S)-2-(Pyridin4-ylamino)-propan-1-ol
A mixture of (S)-2-(2,3,5,6-tetrachloro-pyridin-4-ylamino)-propan-1-ol (6 g), 10% palladium on carbon (3 g), potassium carbonate (14.3 g) and ethanol (110 ml) was stirred under an atmosphere of hydrogen for 24 h. The reaction mixture was filtered through Harbolite™ and the filtrate was concentrated under reduced pressure to give the title compound as a white solid (3.2 g).

reactant | (S)-2-(2,3,5,6-tetrachloro-pyridin-4-ylamino)-propan-1-ol | 6 g | ClC1=NC(=C(C(=C1Cl)N[C@H](CO)C)Cl)Cl | C8H8Cl4N2O
reactant | potassium carbonate | 14.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | (S)-2-(Pyridin4-ylamino)-propan-1-ol | 3.2 g | N1=CC=C(C=C1)N[C@H](CO)C | C8H12N2O
